US09163008B2
To a suspension of the (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)-amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylate (0.426 g, 0.941 mmol) in DCM (10 mL) was added TFA (5 mL, 67 mmol). After stirring overnight, the reaction was evaporated in vacuo and the residue triturated with 3 mL acetonitrile, filtered, rinsed once with 1 mL acetonitrile and dried under vacuum at 40° C. to give (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylic acid as an off-white powder (0.343 g, 0.865 mmol, 92% yield). 1H NMR (400 MHz, DMSO-d6): 8.40 (2H, d, J=8.8 Hz), 8.05 (1H, d, J=6.6 Hz), 7.56 (1H, s), 7.32-7.24 (2H, m), 7.19-7.14 (2H, m), 7.11 (1H, s), 7.07-7.01 (3H, m), 4.61-4.52 (1H, m), 1.37 (3H, d, J=7.0 Hz). LC/MS: m/z=397.1 [M+H]+.

reactant | (S)-tert-butyl 6-((1-amino-1-oxopropan-2-yl)-amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylate | 0.941 mmol, 0.426 g | NC([C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)OC(C)(C)C)=O | C24H25FN4O4
reactant | TFA | 67 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-fluorophenoxy)phenyl)pyrimidine-4-carboxylic acid | 0.865 mmol, 0.343 g, 92% yield | NC([C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)C(=O)O)=O | C20H17FN4O4
